US04251659
A mixture of 55 g (0.15 mole) of 1-benzyl-α,α-bis(trifluoromethyl)-2,3-dihydro-1H-indole-5-methanol, 200 ml of alcohol, 32 ml of concentrated hydrochloric acid, and 2 g of 10% palladium on charcoal is shaken in a Parr apparatus at an initial pressure of three atmospheres until no further change of pressure is observed. The catalyst is filtered off, and the filtrate is evaporated. The residue is distributed between ether and 8 N ammonium hydroxide. The ether layer is separated, washed (saturated sodium chloride solution), dried (magnesium sulfate), and evaporated. Dibutyl ether is added to the residue, and the solution is cooled in an ice bath. The crystals are filtered off to give 33.3 g (80%) of α,α-bis(trifluoromethyl)-2,3-dihydro-1H-indole-5-methanol, m.p. 161°-162°.

reactant | 1-benzyl-α,α-bis(trifluoromethyl)-2,3-dihydro-1H-indole-5-methanol | 0.15 mole, 55 g | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)C(O)(C(F)(F)F)C(F)(F)F | C18H15F6NO
reactant | hydrochloric acid | 32 ml | Cl | ClH
catalyst | palladium on charcoal | 2 g | [Pd] | Pd
product | α,α-bis(trifluoromethyl)-2,3-dihydro-1H-indole-5-methanol | 33.3 g, 80% | FC(C(O)(C=1C=C2CCNC2=CC1)C(F)(F)F)(F)F | C11H9F6NO
